US08022062B2
Use a method similar to the General Procedure 5-1 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (300 mg, 0.7 mmol) with 3-aminopyridine (75 mg, 0.85 mmol). Purify by chromatography on silica gel eluting with hexane/EtOAc (4:1) to give 7-chloro-6-[(3-pyridyl)amino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an off-white solid (20 mg, 8%). MS (ES+) m/z: 370 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.7 mmol, 300 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 3-aminopyridine | 0.85 mmol, 75 mg | NC=1C=NC=CC1 | C5H6N2
product | 7-chloro-6-[(3-pyridyl)amino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 20 mg, 8% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NC=1C=NC=CC1 | C17H15ClF3N3O
